US09403835B2
Intermediate B3: 4-(2-carboxy-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
Di-tert-butyldicarbonate (2.03 g; 9.31 mmol; 1.2 eq.) was added to a solution of 2-(piperidin-4-yloxy)-benzoic acid hydrochloride (2 g; 7.76 mmol; 1 eq.) and TEA (2.16 mL; 15.5 mmol; 2 eq.) in DCM (20 mL) and the resulting mixture was stirred at room temperature for 16 hours. Water (150 mL) was added and the pH made acidic. The two phases were separated and the aqueous layer extracted with DCM. The combined organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (1.03 g, 41%) as an off-white solid. 1H NMR (DMSO-d6) δ 12.62 (s, 1H), 7.49-7.44 (m, 1H), 7.18 (dd, J=7.7, 1.8 Hz, 1H), 7.18 (d, J=8.2 Hz, 1H), 7.02-6.97 (m, 1H), 4.74-4.67 (m, 1H), 3.55-3.45 (m, 2H), 3.39-3.31 (m, 2H), 1.86-1.77 (m, 2H), 1.67-1.57 (m, 2H), 1.40 (s, 9H). HPLC (max plot) 99.8%; Rt 3.57 min. UPLC/MS: (MS−) 320.4 ([M−H]−).

reactant | Di-tert-butyldicarbonate | 9.31 mmol, 2.03 g, 1.2 eq. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(piperidin-4-yloxy)-benzoic acid hydrochloride | 7.76 mmol, 2 g, 1 eq. | Cl.N1CCC(CC1)OC1=C(C(=O)O)C=CC=C1
reactant | Water | 150 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-carboxy-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 1.03 g, 41% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=CC=C1)C(=O)O | C17H23NO5
